US04415572
To a mixture of 1.2 g of 5-(1-piperazinyl)-3,4-dihydrocarbostyril, 1.17 g of potassium carbonate and 20 ml of DMF was added 895 mg of 3,4-dichlorobenzyl chloride and the mixture was stirred at 60°-70° C. for 3 hours. The reaction mixture was poured into a large amount of water and extracted with chloroform. After washing with water the extract was dried over anhydrous sodium sulfate. Chloroform was distilled off and the residue was purified through silica gel column chromatography. After conversion to hydrochloric acid salt with methanol-hydrochloric acid the product was recrystallized from methanol to give 0.17 g of 5-[4-(3,4-dichlorobenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril monohydrochloride monohydrate, m.p. 298.5°-300° C. (decomp.), colorless granules.

reactant | 5-(1-piperazinyl)-3,4-dihydrocarbostyril | 1.2 g | N1(CCNCC1)C1=C2CCC(NC2=CC=C1)=O | C13H17N3O
reactant | potassium carbonate | 1.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | 3,4-dichlorobenzyl chloride | 895 mg | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
solvent | water | O | H2O
product | 5-[4-(3,4-dichlorobenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril monohydrochloride monohydrate | 0.17 g | O.Cl.ClC=1C=C(CN2CCN(CC2)C2=C3CCC(NC3=CC=C2)=O)C=CC1Cl | InChI=1S/C20H21Cl2N3O.ClH.H2O/c21-16-6-4-14(12-17(16)22)13-24-8-10-25(11-9-24)19-3-1-2-18-15(19)5-7-20(26)23-18;;/h1-4,6,12H,5,7-11,13H2,(H,23,26);1H;1H2
